US08980911B2
N-(2-Methyl-1H-pyrrolo[2,3-c]pyridin-7yl)cyclopropanecarboxamide (100 mg, 0.46 mmol) was added to a stirred suspension of aluminium chloride (620 mg, 4.65 mmol) in dry dichloromethane (5 mL) and the mixture was stirred at room temperature for about 1 hour under argon atmosphere. This was followed by drop wise addition of a solution of 2,6-dichlorobenzoyl chloride (194 mg, 0.93 mmol) in dichloromethane and stirring overnight at room temperature. After completion, methanol (10 mL) was added cautiously to quench the reaction mass followed by concentration under vacuum. The residual mass was diluted with water and extracted with ethyl acetate. The combined organic layer was neutralized using aq. sodium bicarbonate solution, washed with brine, dried over anhydrous sodium sulfate and concentrated. Purification by silica gel (100-200) column chromatography using dichloromethane and methanol gradient as eluent afforded N-[3-(2,6-dichlorobenzoyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (70 mg, 39%).

reactant | N-(2-Methyl-1H-pyrrolo[2,3-c]pyridin-7yl)cyclopropanecarboxamide | 0.46 mmol, 100 mg | CC1=CC=2C(=C(N=CC2)NC(=O)C2CC2)N1 | C12H13N3O
reactant | aluminium chloride | 4.65 mmol, 620 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,6-dichlorobenzoyl chloride | 0.93 mmol, 194 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[3-(2,6-dichlorobenzoyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | 70 mg, 39% | ClC1=C(C(=O)C2=C(NC3=C(N=CC=C32)NC(=O)C3CC3)C)C(=CC=C1)Cl | C19H15Cl2N3O2
